US07713994B2
2-[3-(4-{[4-(4-Methyl-piperazin-1-yl)-phenylamino]-methylene}-1,3-dioxo-1,2,3,4-tetrahydro-isoquinolin-6-yl)-pyrrol-1-yl]-acetamide
To a solution of 4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-6-(1H-pyrrol-3-yl)-4H-isoquinoline-1,3-dione (42 mg, 0.1 mmol) in acetone (3 mL) and N,N-dimethylformamide (1 mL) is added potassium carbonate (27 mg, 0.2 mmol) and shaken at room temperature for 2 hours. This is followed by addition of sodium iodide (30 mg, 0.2 mmol) and 2-bromoacetamide (17 mg, 0.12 mmol) and further shaking at room temperature overnight. The reaction mixture is then divided into 2 fractions and purified by C18 reverse phase HPLC. The pure fractions were combined and concentrated to yield the title compound (8.4 mg).

reactant | 4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-6-(1H-pyrrol-3-yl)-4H-isoquinoline-1,3-dione | 0.1 mmol, 42 mg | CN1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC(C2=CC=C(C=C12)C1=CNC=C1)=O)=O | C25H25N5O2
reactant | potassium carbonate | 0.2 mmol, 27 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.2 mmol, 30 mg | [I-].[Na+]
reactant | 2-bromoacetamide | 0.12 mmol, 17 mg | BrCC(=O)N | C2H4BrNO
solvent | acetone | 3 mL | CC(=O)C | C3H6O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-[3-(4-{[4-(4-Methyl-piperazin-1-yl)-phenylamino]-methylene}-1,3-dioxo-1,2,3,4-tetrahydro-isoquinolin-6-yl)-pyrrol-1-yl]-acetamide | 8.4 mg | CN1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC(C2=CC=C(C=C12)C1=CN(C=C1)CC(=O)N)=O)=O | C27H28N6O3
